US06750215B2
3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)amino] propanol was prepared by reaction of 3-[N-(1-oxido-2-pyridinyl)amino] propanol (obtained as described in MILLER, W. H. et al. Bioorg. Med. Chem. Lett. 1999, 9 1807-1812) with benzyl chloroformate according to the standard procedure.

reactant | 3-[N-(1-oxido-2-pyridinyl)amino] propanol | [O-][N+]1=C(C=CC=C1)NCCCO | C8H12N2O2
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | 3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)amino] propanol | C(C1=CC=CC=C1)OC(=O)N(C1=[N+](C=CC=C1)[O-])CCCO | C16H18N2O4
